US08580785B2
3-chloro-5-nitro-2,4-bis-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid methyl ester) in a ratio 74:36 (NMR integrals), are suspended in 16 ml of EtOH and 20 ml of MeOH. Then, 16 ml of a saturated NH4Cl aqueous solution are added followed by 20 ml of THF. 788 mg (0.012 mol, 4.4 eq.) of dust powdered zinc are added and the reaction is stirred during 1 h 30. 50 ml of a saturated NH4Cl aqueous solution are added to the mixture and the product is extracted with CH2Cl2 (3 times). The regrouped organic phases are dried with Na2SO4, filtered and evaporated. A column chromatography purification on silica gel with hexanes and EtOAc gave 680 mg (78%) of pure 2,5-diamino-3-chloro-4-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid methyl ester; 1H-NMR (CDCl3, 300 MHz): 0.02 (s, 9H), 0.78-0.89 (m, 2H), 2.83-2.91 (m, 2H), 3.88 (s, 3H), 7.33 (d, 1H) ppm.

reactant | 3-chloro-5-nitro-2,4-bis-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid methyl ester | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])SCC[Si](C)(C)C)Cl)SCC[Si](C)(C)C)=O | C18H30ClNO4S2Si2
reactant | NH4Cl | 16 ml | [NH4+].[Cl-]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | EtOH | 16 ml | CCO | C2H6O
solvent | MeOH | 20 ml | CO | CH4O
catalyst | zinc | [Zn] | Zn
product | 2,5-diamino-3-chloro-4-(2-trimethylsilanyl-ethylsulfanyl)-benzoic acid methyl ester | 680 mg, 78% | COC(C1=C(C(=C(C(=C1)N)SCC[Si](C)(C)C)Cl)N)=O | C13H21ClN2O2SSi
